US05939439
Step 3: 4-[3-(tert-butyl-dimethyl-silanyloxy)-1-imidazol-1-yl-propyl]-benzonitrile
4-Imidazol-1-ylmethyl-benzonitrile (5.5 gms,30 mmol) was suspended in freshly distilled THF (150 mL) in dry glassware and stirred under argon in a -60° C. dry ice acetone bath then Lithium bis(trimethylsilyl)amide 1 molar in THF (33 mL) was added slowly. The mixture was stirred for 30 minutes and the temperature was reduced to -78° C. A suspension of tert-butyl-(2-iodo-ethoxy)-dimethyl-silane (9.5 gm, 33 mmol) in 20 mL of THF was cooled to -78° C. and added via cannula to the first solution and the resulting mixture was allowed to slowly warm to ambient temperature. After 16 hours the reaction was quenched by the addition of 10 mL of water and the solvent was removed in vacuo. The residue was suspended in ethyl acetate (200 mL) and extracted 2 times with saturated aqueous sodium bicarbonate (100 mL), then water (100 mL), then saturated sodium chloride solution (100 mL). The organic solvent was removed in vacuo and the residue was chromatographed on silica gel using 1:3 ethyl acatate: hexanes. The desired fractions were combined and the solvent was removed in vacuo to give the desired product.

reactant | 4-Imidazol-1-ylmethyl-benzonitrile | 30 mmol, 5.5 gms | N1(C=NC=C1)CC1=CC=C(C#N)C=C1 | C11H9N3
reactant | Lithium bis(trimethylsilyl)amide | 1 molar | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | tert-butyl-(2-iodo-ethoxy)-dimethyl-silane | 33 mmol, 9.5 gm | C(C)(C)(C)[Si](C)(C)OCCI | C8H19IOSi
solvent | THF | 33 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 4-[3-(tert-butyl-dimethyl-silanyloxy)-1-imidazol-1-yl-propyl]-benzonitrile | C(C)(C)(C)[Si](OCCC(N1C=NC=C1)C1=CC=C(C#N)C=C1)(C)C | C19H27N3OSi
